US06297266B1
In the same manner as described in Example 3, from 2-guanidino-thiazole-4-carboxylic acid and ethyl 4-amino-phenyloxyacetate hydrochloride there is obtained ethyl {4-[(2-guanidino-thiazole-4-carbonyl)-amino]-phenoxy}-acetate, m.p. 206° C., MS: 364 (M+H)+.

reactant | 2-guanidino-thiazole-4-carboxylic acid | N(C(=N)N)C=1SC=C(N1)C(=O)O | C5H6N4O2S
reactant | ethyl 4-amino-phenyloxyacetate hydrochloride | Cl.NC1=CC=C(C=C1)OCC(=O)OCC
product | ethyl {4-[(2-guanidino-thiazole-4-carbonyl)-amino]-phenoxy}-acetate | N(C(=N)N)C=1SC=C(N1)C(=O)NC1=CC=C(OCC(=O)OCC)C=C1 | C15H17N5O4S
